* SKY130 Bandgap — Validation with best parameters
* From commit 02f37ab, score=1.0
.lib "sky130_models/sky130.lib.spice" tt

.param rptat_val = 30000
.param rratio_val = 8.0

Vdd vdd 0 dc 1.8 ac 1
Vss vss 0 0

* PNP BJTs
XQ1 vss vss n1 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=1
XQ2 vss vss ne2 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=8
Rptat n2 ne2 30000

* PMOS Current Mirror
XMp1 n1 ng vdd vdd sky130_fd_pr__pfet_01v8 W=85u L=2u nf=1
XMp2 n2 ng vdd vdd sky130_fd_pr__pfet_01v8 W=85u L=2u nf=1
XMp3 vref ng vdd vdd sky130_fd_pr__pfet_01v8 W=85u L=2u nf=1

* OTA: PMOS diff pair
XMd1 na n2 nsc vdd sky130_fd_pr__pfet_01v8 W=20u L=4u nf=1
XMd2 ng n1 nsc vdd sky130_fd_pr__pfet_01v8 W=20u L=4u nf=1
Rtail vdd nsc 50000

* NMOS active load
XMl1 na na vss vss sky130_fd_pr__nfet_01v8 W=5u L=10u nf=1
XMl2 ng na vss vss sky130_fd_pr__nfet_01v8 W=5u L=10u nf=1

* Output
XQ3 vss vss nq3 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=1
Rout vref nq3 'rptat_val * rratio_val'

* Startup
XMs n1 vref vdd vdd sky130_fd_pr__pfet_01v8 W=2u L=4u nf=1

* Compensation
Cc ng vss 3p

.ic v(n1)=0.75 v(n2)=0.75 v(vref)=1.2 v(ng)=1.0 v(nsc)=1.4
.options gmin=1e-11 abstol=1e-11 reltol=0.01 itl1=500 srcsteps=10

.control
* === Validation a) Operating point check ===
set temp=27
op
echo "=== OPERATING POINT ==="
print v(vref) v(n1) v(n2) v(ne2) v(nq3) v(ng) v(nsc) v(na)
let pwr = abs(v(vdd) * i(Vdd)) * 1e6
echo "Power (uW):"
print pwr
echo "Branch currents (uA):"
print @xmp1[id]*1e6 @xmp2[id]*1e6 @xmp3[id]*1e6
destroy all

* === Validation c) Temperature sweep (-40 to 125C, fine) ===
dc temp -40 125 5
echo "=== TEMPERATURE SWEEP ==="
let vref_max = vecmax(v(vref))
let vref_min = vecmin(v(vref))
let vref_nom = (vref_max + vref_min) / 2
let tempco_val = (vref_max - vref_min) / vref_nom / 165 * 1e6
print vref_max vref_min vref_nom tempco_val
* Print Vref at key temperatures
print v(vref)[0] v(vref)[8] v(vref)[13] v(vref)[25] v(vref)[33]
destroy all

* === PSRR ===
op
ac dec 100 1 1G
echo "=== PSRR ==="
meas ac psrr_dc find vdb(vref) at=1
meas ac psrr_100 find vdb(vref) at=100
meas ac psrr_1k find vdb(vref) at=1000
meas ac psrr_1M find vdb(vref) at=1e6
destroy all

* === Line regulation ===
echo "=== LINE REGULATION ==="
dc Vdd 1.4 2.2 0.01
let vref_first = v(vref)[0]
let vref_last = v(vref)[length(v(vref))-1]
let line_reg = abs(vref_last - vref_first) / 0.8 * 1000
print vref_first vref_last line_reg
destroy all

* === Validation d) Startup ===
echo "=== STARTUP ==="
tran 100n 50u uic
meas tran vref_final find v(vref) at=49u
meas tran vref_10u find v(vref) at=10u
meas tran settle_time when v(vref)=1.2 rise=1

echo "=== VALIDATION COMPLETE ==="
.endc
.end
